US03987199
C. 4-amino-3-trifluoromethylbenzenesulfonamide
1.0 G. of 4-nitro-3-trifluoromethylbenzenesulfonamide is hydrogenated over 5% Ruthenium on charcoal in 20 ml. of absolute ethanol at room temperature under 40 lbs. of hydrogen for 5 hours. The hydrogen uptake is 100% of theory. The mixture is filtered, evaporated and dried affording 0.87 g. of crude solid. This material is recrystallized from toluene affording 0.75 g. of 4-amino-3-trifluoromethylbenzenesulfonamide, m.p. 150° to 151° C.

reactant | 4-nitro-3-trifluoromethylbenzenesulfonamide | [N+](=O)([O-])C1=C(C=C(C=C1)S(=O)(=O)N)C(F)(F)F | C7H5F3N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | Ruthenium | [Ru] | Ru
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-3-trifluoromethylbenzenesulfonamide | NC1=C(C=C(C=C1)S(=O)(=O)N)C(F)(F)F | C7H7F3N2O2S
